US06440995B1
(RS)-1-Amino-3-[2-(4-chloro-phenyl)-7-methoxy-quinolin-4-ylamino]-propan-2-ol hydrochloride
The title compound, m.p. 269-271° C. and MS: m/e=358.1 (M+H+), was prepared from 4-chloro-2-(4-chloro-phenyl)-7-methoxy-quinoline and 1,3-diamino-2-propanol.

reactant | 4-chloro-2-(4-chloro-phenyl)-7-methoxy-quinoline | ClC1=CC(=NC2=CC(=CC=C12)OC)C1=CC=C(C=C1)Cl | C16H11Cl2NO
reactant | 1,3-diamino-2-propanol | NCC(CN)O | C3H10N2O
product | (RS)-1-Amino-3-[2-(4-chloro-phenyl)-7-methoxy-quinolin-4-ylamino]-propan-2-ol hydrochloride | Cl.NCC(CNC1=CC(=NC2=CC(=CC=C12)OC)C1=CC=C(C=C1)Cl)O | InChI=1S/C19H20ClN3O2.ClH/c1-25-15-6-7-16-18(22-11-14(24)10-21)9-17(23-19(16)8-15)12-2-4-13(20)5-3-12;/h2-9,14,24H,10-11,21H2,1H3,(H,22,23);1H
